US09062092B2
Compound 43g. (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-tert-Butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-[1,4]dioxane-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester
A solution of 2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-[1,4]dioxane-2-carboxylic acid (50 mg, 0.1 mmol), [(S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (44 mg, 0.1 mmol), N,N-diisopropylethylamine (32 mg, 0.043 mL, 0.25 mmol), 4-dimethylaminopyridine (6 mg, 0.05 mmol) and 2-methyl-6-nitrobenzoic anhydride (58 mg, 0.17 mmol) in dichloromethane (5 mL) was stirred at room temperature under nitrogen for 18 h. The reaction mixture was diluted with dichloromethane and the solution was washed with ice-cold saturated ammonium chloride solution, ice-cold saturated sodium hydrogen carbonate solution and brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 1:1 to 1:3 to afford the title compound (47 mg, 55%) as a white solid and as a 1:1 mixture of diastereoisomers. LCMS (m/z) 842.2/844.0 [M+H], Tr=3.25 and 3.31 min.

reactant | 2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-[1,4]dioxane-2-carboxylic acid | 0.1 mmol, 50 mg | C(C)(C)(C)OC(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C1(OCCOC1)C(=O)O | C23H28N2O6
reactant | (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 0.1 mmol, 44 mg | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)O)=O)=O)(Cl)Cl | C15H24Cl3N3O5
reactant | N,N-diisopropylethylamine | 0.25 mmol, 0.043 mL, 32 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methyl-6-nitrobenzoic anhydride | 0.17 mmol, 58 mg | CC1=C(C(=O)OC(C2=C(C=CC=C2[N+](=O)[O-])C)=O)C(=CC=C1)[N+](=O)[O-] | C16H12N2O7
catalyst | 4-dimethylaminopyridine | 0.05 mmol, 6 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-tert-Butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-[1,4]dioxane-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 47 mg, 55% | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)OC(=O)C1(OCCOC1)\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)OC(C)(C)C)=O)=O)(Cl)Cl | C38H50Cl3N5O10
